US07074801B1
2.3 g of thiophen-2-thiol, 3.0 g of 4-bromobutyronitrile and 5.5 g of potassium carbonate were stirred in N,N-dimethylformamide at room temperature to give 3.4 g of 4-(2-thienylsulfanyl)butane nitrile. 3.4 g of 4-(2-thienylsulfanyl)butane nitrile was reacted with 5.4 g of N-iodosuccinimide in N,N-dimethylformamide, whereby 5.5 g of the title compound was obtained as a pale yellow oil.

reactant | thiophen-2-thiol | 2.3 g | S1C(=CC=C1)S | C4H4S2
reactant | 4-bromobutyronitrile | 3.0 g | BrCCCC#N | C4H6BrN
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(2-thienylsulfanyl)butane nitrile | 3.4 g | S1C(=CC=C1)SCCCC#N | C8H9NS2
